US04560754
Preparation of racemic 2-(4-phenylphenyl)-2-(2-pyridyl)-4-[N,N-bis(1-methylethyl)amino]butanenitrile.
A mixture of 50.0 g (0.16 mole) of 2-(4-phenylphenyl)-4-[N,N-bis(1-methylethyl)amino]butanenitrile and 29.7 g of potassium hydride (about 0.26 mole as a 35% dispersion in oil) in 1000 ml of toluene was heated at 65°. A solution of 32 g (0.20 mole) of 2-bromopyridine in 450 ml of toluene was added slowly. After addition was complete, the mixture was stirred an additional 30 minutes, cooled in an ice bath, and treated with 750 ml of water. The toluene layer was separated and extracted with 10% aqueous hydrochloric acid. The acidic aqueous layer was neutralized with a slight excess of aqueous sodium hydroxide and extracted wih dichloromethane. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated to dryness, giving 56.5 g of the title compound as an oil having the expected NMR spectrum. The intermediate nitrile was used without further purification.

reactant | 2-(4-phenylphenyl)-4-[N,N-bis(1-methylethyl)amino]butanenitrile | 0.16 mole, 50.0 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C#N)CCN(C(C)C)C(C)C | C22H28N2
reactant | potassium hydride | 29.7 g | [H-].[K+]
reactant | 2-bromopyridine | 0.20 mole, 32 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | water | 750 ml | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | racemic 2-(4-phenylphenyl)-2-(2-pyridyl)-4-[N,N-bis(1-methylethyl)amino]butanenitrile | 56.5 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C#N)(CCN(C(C)C)C(C)C)C1=NC=CC=C1 | C27H31N3
